US08648074B2
(7S,8aS)-tert-butyl 7-(5-cyclopropylpyrazin-2-yloxy)hexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate
To a solution of (7S,8aS)-tert-butyl 7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (Wuxi Pharma, 0.485 g, 2 mmol) in tetrahydrofuran (0.3 mL) was added potassium tert-butoxide (2.8 mL, 1 M in tetrahydrofuran, 2.8 mmol) followed by a solution of 2-bromo-5-cyclopropylpyrazine (446 mg, 2.24 mmol) in tetrahydrofuran (1 mL). The mixture was stirred at room temperature for 16 hours. The mixture was concentrated, and the residue was purified by chromatography on silica gel (ethyl acetate) to give the titled compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.80 (m, 2H), 0.92 (m, 2H), 1.39 (s, 9H), 1.90 (m, 2H), 2.09 (m, 1H), 2.40 (m, 3H), 2.90 (m, 2H), 3.08 (m, 1H), 3.28 (m, 1H), 3.86-4.08 (m, 2H), 5.27 (m, 1H), 8.11 (m, 2H); MS (ESI) m/z 361 (M+H)+.

reactant | (7S,8aS)-tert-butyl 7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 2 mmol, 0.485 g | O[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H22N2O3
reactant | potassium tert-butoxide | 2.8 mmol, 1 M, 2.8 mL | CC(C)([O-])C.[K+]
reactant | 2-bromo-5-cyclopropylpyrazine | 2.24 mmol, 446 mg | BrC1=NC=C(N=C1)C1CC1 | C7H7BrN2
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (7S,8aS)-tert-butyl 7-(5-cyclopropylpyrazin-2-yloxy)hexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | C1(CC1)C=1N=CC(=NC1)O[C@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C19H28N4O3
